US03962224
A mixture of p-nitrobenzyl α-amino-diphenylphosphonoacetate (5.0 g), ethyl thionoformate (5 ml), and hydrogen sulfide (5 ml) in a sealed thick-walled tube is left standing overnight at room temperature. The tube is cooled in dry-ice and the seal removed. A boiling chip is placed in the solution and it is allowed to slowly come to room temperature. Nitrogen is bubbled in to remove final traces of hydrogen sulfide. The residue is dissolved in methylene chloride, filtered, and evaporated under reduced pressure. Chromatography of the residue on silica gel gives p-nitrobenzyl α-thioformamido-diphenylphosphonoacetate.

reactant | p-nitrobenzyl α-amino-diphenylphosphonoacetate | 5.0 g | NC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])P(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C21H19N2O7P
reactant | hydrogen sulfide | 5 ml | S | H2S
reactant | dry-ice | C(=O)=O | CO2
product | p-nitrobenzyl α-thioformamido-diphenylphosphonoacetate | C(=S)NC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])P(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C22H19N2O7PS
